US03968116
5-(Difluoromethyl)-3-nitro-2-aminopyridine is reacted with difluoroacetic anhydride to obtain 5-(difluoromethyl)-3-nitro-2-(difluoroacetamido)pyridine, which when hydrogenated in the presence of palladium on barium sulfate yields 2,6-bis(difluoromethyl)-1-hydroxy-1H-imidazo(4,5-b)pyridine.

reactant | 5-(Difluoromethyl)-3-nitro-2-aminopyridine | FC(C=1C=C(C(=NC1)N)[N+](=O)[O-])F | C6H5F2N3O2
reactant | difluoroacetic anhydride | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
product | 5-(difluoromethyl)-3-nitro-2-(difluoroacetamido)pyridine | FC(C=1C=C(C(=NC1)NC(C(F)F)=O)[N+](=O)[O-])F | C8H5F4N3O3
